US05493030
To methyl (E) 6-(4-tert -butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2,4-dimethyl-4-hexenoate (0.8 g) in tetrahydrofuran (5 ml) was added 1N tetra-n-butylammonium fluoride in tetrahydrofuran (4 ml). After 10 minutes the solution was diluted with ice water and extracted with ethyl acetate. The extract was dried and evaporated to give methyl (E) 6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2,4-dimethyl-4-hexenoate as an oil.

reactant | methyl (E) 6-(4-tert -butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2,4-dimethyl-4-hexenoate | 0.8 g | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1C/C=C(/CC(C(=O)OC)C)\C)OC)C)=O | C25H38O6Si
reactant | tetra-n-butylammonium fluoride | 1N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | methyl (E) 6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2,4-dimethyl-4-hexenoate | OC1=C2C(OCC2=C(C(=C1C/C=C(/CC(C(=O)OC)C)\C)OC)C)=O | C19H24O6
